US06713499B2
To a stirred solution of 600 mg (3.07 mmol) (2-methoxy-ethyl)-(4-methoxy-phenyl)-methyl-amine in 1.3 ml concentrated sulfuric acid at room temperature was added 222 mg (3.69 mmol) urea. After stirring for 1 h at room temperature, a solution of 342 mg (3.38 mmol) potassium nitrate in 0.6 ml concentrated sulfuric acid was added dropwise and stirring continued for a further 16 h. The mixture was then poured onto water amd extracted five times with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (1/9 ethyl acetate/hexane) afforded 260 mg (35%) (2-methoxy-ethyl)-(4-methoxy-3-nitro-phenyl)-methyl-amine as an orange oil. ES-MS m/e (%): 241 (M+H+, 100).

reactant | (2-methoxy-ethyl)-(4-methoxy-phenyl)-methyl-amine | 3.07 mmol, 600 mg | COCCN(C)C1=CC=C(C=C1)OC | C11H17NO2
reactant | urea | 3.69 mmol, 222 mg | NC(=O)N | CH4N2O
reactant | potassium nitrate | 3.38 mmol, 342 mg | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 1.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
product | (2-methoxy-ethyl)-(4-methoxy-3-nitro-phenyl)-methyl-amine | 260 mg, 35% | COCCN(C)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C11H16N2O4
